US05589502
Under argon atmosphere, a solution of 4.22 g of methyl (2S,3R)-3-cyclopropyl-2,3-dihydroxypropionate in 140 ml of methylene chloride is cooled to -3° C. Then, 4.00 g of triethylamine and 5.17 g of p-toluenesulfonyl chloride are added to the mixture successively. The mixture is stirred for 3 days. Then, the solvent is removed in vacuo. The residue is poured into a mixture of ethyl acetate and water. The organic layer is washed with brine and dried. The solvent is removed in vacuo. The residue is purified by silica gel column chromatography (solvent; hexane:ethyl acetate=1:3) to give 6.54 g of methyl (2S,3R)-3-cyclopropyl-3-hydroxy-2-(p-toluenesulfonyloxy)propionate

reactant | methyl (2S,3R)-3-cyclopropyl-2,3-dihydroxypropionate | 4.22 g | C1(CC1)[C@H]([C@@H](C(=O)OC)O)O | C7H12O4
reactant | triethylamine | 4.00 g | C(C)N(CC)CC | C6H15N
reactant | p-toluenesulfonyl chloride | 5.17 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | methylene chloride | 140 ml | C(Cl)Cl | CH2Cl2
product | methyl (2S,3R)-3-cyclopropyl-3-hydroxy-2-(p-toluenesulfonyloxy)propionate | 6.54 g, Yield: 79% | C1(CC1)[C@H]([C@@H](C(=O)OC)OS(=O)(=O)C1=CC=C(C=C1)C)O | C14H18O6S
